US07183304B2
To a solution of the title C compound, (R)-2,3-dihydro-1H-indole-2-carboxylic acid hydrochloride (0.92 g, 4.6 mmol), 1N aqueous sodium hydroxide (12.0 mL, 12 mmol) and water (25 mL) at room temperature is added dropwise a solution of 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonyl chloride (1.65 g, 4.6 mmol) in dioxane (33 mL). Upon completion of the addition, the pH of the reaction mixture is monitored and maintained between 7–8 by slow addition of 1N aqueous sodium hydroxide over the next 2 hours. The reaction mixture is stirred overnight at room temperature. The solution is poured into crushed ice and the resulting mixture is acidified to pH 2–3 with 1N aqueous hydrochloric acid (11 mL). The precipitate that forms is collected, washed with water and dried under high vacuum overnight to give 1.5 g of (R)-1-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonyl]-2,3-dihydro-1H-indole-2-carboxylic acid: [M+1]+=491.2, [M−1]−=489.1

reactant | (R)-2,3-dihydro-1H-indole-2-carboxylic acid hydrochloride | 4.6 mmol, 0.92 g | Cl.N1[C@H](CC2=CC=CC=C12)C(=O)O
reactant | sodium hydroxide | 12 mmol, 1N, 12.0 mL | [OH-].[Na+]
reactant | 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonyl chloride | 4.6 mmol, 1.65 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)S(=O)(=O)Cl | C17H14ClNO4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 11 mL | Cl | ClH
solvent | dioxane | 33 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | (R)-1-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonyl]-2,3-dihydro-1H-indole-2-carboxylic acid | 1.5 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CC2=CC=CC=C12)C(=O)O | C26H22N2O6S
